US04556738
In a closed glass vessel with a thermometer and a stirrer, there are charged 102.3 g (0.3 moles) of 2,4'-dichloro-5,3'-dinitro benzophenone, 5 g of 5% palladium/active carbon catalyst (from Nihon-Engelhardt Co.) and 300 ml of dioxane. At 70°-80° C., hydrogen is introduced into the vessel while the mixture being stirred, so that 42 l (1.88 moles) of hydrogen is absorbed in the mixture during ten hours. After being cooled to 30° C., the mixture is added with 55 g (0.9 moles) of 28% ammonia water and then introduced with hydrogen while being stirred at 30°-40° C. so as to absorb 13.2 l (0.59 moles) of hydrogen during 5 hours. The reaction mixture is subject to filtering at 30°-40° C. to remove the catalyst. On cooling, there is obtained 3,3'-diamino benzophenone as yellow crystals. The crystals are filtered, washed with 30 ml of 50% aqueous solution of dioxane and dried. Yield 56.5 g (89%). M.P. 149°-150.5° C. Recrystallization from ethanol gives yellow needle-like pure crystals of said benzophenone. M.P. 150°-151° C.

reactant | 2,4'-dichloro-5,3'-dinitro benzophenone | 0.3 moles, 102.3 g | ClC1=C(C(=O)C2=CC(=C(C=C2)Cl)[N+](=O)[O-])C=C(C=C1)[N+](=O)[O-] | C13H6Cl2N2O5
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 1.88 moles, 42 l | [H][H] | H2
reactant | ammonia water | 0.9 moles, 55 g | O.N
reactant | hydrogen | 0.59 moles, 13.2 l | [H][H] | H2
catalyst | palladium | 5 g | [Pd] | Pd
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 3,3'-diamino benzophenone | NC=1C=C(C(=O)C2=CC(=CC=C2)N)C=CC1 | C13H12N2O
